US04460587
A mixture of 16 g of 2-methyl-11H-imidazo[1,2-c][1,3]bezodiazepine-5-(6H)-one, 9.58 g of N-methylpiperazine and 160 ml of methylene chloride is stirred at room temperature overnight. The mixture is decolorized with charcoal and evaporated to dryness. The residue is crystallized from methanol-ether to give 1-[2-(4-methyl-2-imidazolylmethyl) phenylcarbamoyl]-4-methylpiperazine, m.p. 177°-179°.

reactant | 2-methyl-11H-imidazo[1,2-c][1,3]bezodiazepine-5-(6H)-one | 16 g | CC=1N=C2N(C(NC3=C(C2)C=CC=C3)=O)C1 | C12H11N3O
reactant | N-methylpiperazine | 9.58 g | CN1CCNCC1 | C5H12N2
reactant | charcoal | C | CH4
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-methyl-2-imidazolylmethyl) phenylcarbamoyl]-4-methylpiperazine | CC=1N=C(NC1)CC1=C(C=CC=C1)NC(=O)N1CCN(CC1)C | C17H23N5O
